US07517873B2
To a mixture of 0.170 g (0.00037 mole) of (rac)-4-(9-cyclohexyl-5,7-dimethyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-yl amino)-3-methoxy-benzoic acid methyl ester, 0.35 mL (0.00056 mole) of iodomethane and 10 mL of N,N-dimethylformamide at 0 degrees, was added 0.024 g of sodium hydride (60% dispersion in mineral oil). The mixture was stirred at 0 degrees for 2 hours and then partitioned between ethyl acetate and water. The aqueous phase was extracted with ethyl acetate, and the combined organic phases were washed successively with water and brine, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The residue was purified by silica chromatography, eluting with hexanes-ethyl acetate (30:70) to give 0.170 g of (rac)-4-[(9-cyclohexyl-5,7-dimethyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-yl)-methyl-amino]-3-methoxy-benzoic acid methyl ester as white powder.

reactant | (rac)-4-(9-cyclohexyl-5,7-dimethyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-yl amino)-3-methoxy-benzoic acid methyl ester | 0.00037 mole, 0.170 g | COC(C1=CC(=C(C=C1)NC=1N=CC2=C(N(CC(C(N2C)=O)C)C2CCCCC2)N1)OC)=O | C24H31N5O4
reactant | iodomethane | 0.00056 mole, 0.35 mL | IC | CH3I
reactant | sodium hydride | 0.024 g | [H-].[Na+]
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | (rac)-4-[(9-cyclohexyl-5,7-dimethyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-yl)-methyl-amino]-3-methoxy-benzoic acid methyl ester | 0.170 g | COC(C1=CC(=C(C=C1)N(C)C=1N=CC2=C(N(CC(C(N2C)=O)C)C2CCCCC2)N1)OC)=O | C25H33N5O4
